US06599925B2
Following the procedure described in Step 1 of Example 1, 2-[(6-bromo-1-methyl-2-naphthyl)oxy]acetonitrile (4.93 g, 17.9 mmol) was coupled to 2-benzofuranboronic acid (3.58 g, 22.1 mmol) using [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.452 g, 0.553 mmol) and potassium carbonate (3.75 g, 27.1 mmol) in dioxane (130 mL) and water (13 mL). Purification by flash chromatography using 3-9% ethyl acetate in hexane as an eluant yielded 2-{[6-(1-benzofuran-2-yl)-1-methyl-2-naphthyl]oxy}acetonitrile a light yellow solid (3.03 g), mp 143-145° C., 1HNMR (300 MHz, DMSO-d6): δ8.45 (s, 1H), 7.95-8.15 (m, 3H), 7.7 (t, 2H, J=7.3 Hz), 7.5-7.6 (m, 2H), 7.2-7.4 (m, 2H), 5.35 (s, 2H), and 2.55 ppm (s, 3H).

reactant | 2-[(6-bromo-1-methyl-2-naphthyl)oxy]acetonitrile | 17.9 mmol, 4.93 g | BrC=1C=C2C=CC(=C(C2=CC1)C)OCC#N | C13H10BrNO
reactant | 2-benzofuranboronic acid | 22.1 mmol, 3.58 g | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | dichloromethane | 0.553 mmol, 0.452 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 27.1 mmol, 3.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
solvent | water | 13 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{[6-(1-benzofuran-2-yl)-1-methyl-2-naphthyl]oxy}acetonitrile | O1C(=CC2=C1C=CC=C2)C=2C=C1C=CC(=C(C1=CC2)C)OCC#N | C21H15NO2
